US07378525B2
To a −78° C. solution of 1-benzyl-piperidin-4-one (3.79 g, 20 mmol) in anhydrous THF (20 mL) was added lithium hexamethyldisilazide (21 mL, 21 mmol of a 1.0 M solution in THF). After being stirred at −78° C. for 30 min, a solution of iodoethane (1.7 mL, 21 mmol) in THF (5 mL) was added to the reaction mixture. The resultant solution was stirred at 25° C. for 2 h and quenched with water. The aqueous layer was extracted with CH2Cl2. The organic extracts were combined, washed with brine and dried over MgSO4. The solution was filtered and concentrated in vacuo to give the crude product. The crude material was purified by flash column chromatography (hexane/EtOAc) to provide 0.51 g (11.5% yield) of 1-benzyl-3-ethyl-piperidin-4-one, which was converted into 1-benzyl-3-ethyl-piperidin-4-ylamine (3) using the same procedure as in Scheme 1-1. ((±)-cis: (±)-trans=1:1) LCMS m/z: 219 (M+H)+. This material was used without further purification.

reactant | 1-benzyl-piperidin-4-one | 20 mmol, 3.79 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | iodoethane | 21 mmol, 1.7 mL | ICC | C2H5I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-benzyl-3-ethyl-piperidin-4-one | 0.51 g, 11.5% yield | C(C1=CC=CC=C1)N1CC(C(CC1)=O)CC | C14H19NO
